US07524813B2
Trifluoroacetic acid (5 ml) was added to a solution of (3-hydroxymethylbenzyl)carbamic acid tert butylester (1.70 g, 7.17 mmol) in dichloromethane (5 ml). The reaction mixture was stirred for 40 min. The solvent was removed in vacuo. The residue was dissolved in dichloromethane (40 ml). The solvent was removed in vacuo. The latter procedure was repeated twice. The residue was dissolved in water (50 ml) and an 1 N aqueous solution of sodium hydroxide (100 ml). It was washed with tert-butyl methyl ether (3×100 ml). It was saturated with sodium chloride and extracted with dichloromethane (3×75 ml). The combined dichloromethane-phases were dried over magnesium sulphate. The solvent was removed in vacuo to give 328 mg of crude (3-(aminomethyl)phenyl)methanol, which was used for the further steps without purification.

reactant | Trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | (3-hydroxymethylbenzyl)carbamic acid tert butylester | 7.17 mmol, 1.70 g | C(C)(C)(C)OC(NCC1=CC(=CC=C1)CO)=O | C13H19NO3
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (3-(aminomethyl)phenyl)methanol | 328 mg | NCC=1C=C(C=CC1)CO | C8H11NO
